US07741327B2
A mixture of 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-pentanoic acid methyl ester (1.02 g, 2.70 mmol) in a 1:1 solution of tetrahydrofuran:water (30 mL) was treated with lithium hydroxide monohydrate (270 mg, 5.40 mmol). The mixture was stirred for 2 h at 25° C. After such time, the mixture was concentrated in vacuo to remove the tetrahydrofuran, diluted with water and the pH adjusted to pH=5 with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated in vacuo to afford 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-pentanoic acid (766 mg, 78%) as a cream colored solid: HR-ES-MS m/z calculated for C15H13NO4ClF3 [M+H]+ 364.0558, observed 364.0557.

reactant | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-pentanoic acid methyl ester | 2.70 mmol, 1.02 g | COC(C(CCC(F)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O | C16H15ClF3NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 5.40 mmol, 270 mg | O.[OH-].[Li+]
solvent | water | 30 mL | O | H2O
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-5,5,5-trifluoro-pentanoic acid | 766 mg, 78% | ClC1=C(OC2=CC(N(C2)C(C(=O)O)CCC(F)(F)F)=O)C=CC=C1 | C15H13ClF3NO4
